US08110689B2
A solution of 20% titanium trichloride (8.4 g) was added to a mixture of 4-(3,5-bis-trifluoromethyl-benzyl)-2-methyl-nitrobenzene (0.44 g), ammonium acetate (9.3 g), acetone (20 ml) and water (10 ml) at room temperature and stirred for 12 hours. After the reaction, the reaction solution was extracted with ethyl acetate and washed with a saturated sodium bicarbonate solution and a saturated salt solution and then dried over anhydrous magnesium sulfate. After distilling the solvent off, the resultant residue was purified by silica gel column chromatography to obtain 4-(3,5-bis-trifluoromethyl-benzyl)-2-methylaniline (0.22 g).

reactant | 4-(3,5-bis-trifluoromethyl-benzyl)-2-methyl-nitrobenzene | 0.44 g | FC(C=1C=C(CC2=CC(=C(C=C2)[N+](=O)[O-])C)C=C(C1)C(F)(F)F)(F)F | C16H11F6NO2
reactant | ammonium acetate | 9.3 g | C(C)(=O)[O-].[NH4+]
reactant | acetone | 20 ml | CC(=O)C | C3H6O
catalyst | titanium trichloride | 8.4 g | [Cl-].[Cl-].[Cl-].[Ti+3]
solvent | water | 10 ml | O | H2O
product | 4-(3,5-bis-trifluoromethyl-benzyl)-2-methylaniline | 0.22 g | FC(C=1C=C(CC2=CC(=C(N)C=C2)C)C=C(C1)C(F)(F)F)(F)F | C16H13F6N
